US08076344B2
3-chloro-N-(1-ethynylcyclohexyl)benzenesulfonamide
To a solution of 1-ethynylcyclohexanamine (40 mg, 0.32 mmol) in CH2C2 was added triethylamine (68 mL, 0.48 mmol), followed by 3-chlorobenzenesulfonyl chloride (68.2 mg, 0.32 mmol). After 30 min, the mixture was partitioned between ethyl acetate and 3N aq. HCl. The organic layer was washed with sat. NaHCO3, brine, dried over Na2SO4, concentrated in vacuuo to give the title compound as a white solid (90 mg, 93% yield);

reactant | 1-ethynylcyclohexanamine | 0.32 mmol, 40 mg | C(#C)C1(CCCCC1)N | C8H13N
reactant | triethylamine | 0.48 mmol, 68 mL | C(C)N(CC)CC | C6H15N
reactant | 3-chlorobenzenesulfonyl chloride | 0.32 mmol, 68.2 mg | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
product | 3-chloro-N-(1-ethynylcyclohexyl)benzenesulfonamide | 90 mg, 93% yield | ClC=1C=C(C=CC1)S(=O)(=O)NC1(CCCCC1)C#C | C14H16ClNO2S
